US05362879
NaH (0.34 g of a 50% dispersion in mineral oil, 3.5 mmol) was washed twice with hexanes and covered with dry THF (10 mL). A solution of methyl [3-[(methoxycarbonyl)amino]phenoxy]acetate (0.75 g, 3 mmol) in dry THF (10 mL) was added and the mixture stirred at room temperature. After about 30 minutes, a solution of 2-bromomethyl-4,5-diphenyl-oxazole (0.99 g, 3 mmol) in THF (7 mL) was added and the mixture stirred overnight at room temperature. The mixture was diluted with saturated NH4Cl solution and Et2O, the organic phase separated, washed with H2O and saturated NaCl solution and dried over MgSO4. The solvent was evaporated and the residue chromatographed on a column of silica gel using a mixture of hexanes and EtOAc (4:1) as eluent to give methyl [3-[[(4,5-diphenyl-2-oxazolyl)methyl](methoxycarbonyl) amino]phenoxy]acetate (0.71 g, 48%). IR (film) 1760, (CO2CH3), 1715 (NCO2CH3) cm-1 ; 1H NMR (CDCl3) δ3.73 (6H, s, CO2CH3), 4.58 (2H, s, OCH2CO2CH3), 4.99 (2H, s, CH2 -oxazole), 6.79 (1H, dd, J=9 Hz, J'=2 Hz, aromatic H), 7.02 (2H, m, aromatic H), 7.20 to 7.45 (7H, m, aromatic H), 7.50 to 7.65 (4H, m, aromatic H); MS m/z 473 (MH+).

reactant | methyl [3-[(methoxycarbonyl)amino]phenoxy]acetate | 3 mmol, 0.75 g | COC(=O)NC=1C=C(OCC(=O)OC)C=CC1 | C11H13NO5
reactant | 2-bromomethyl-4,5-diphenyl-oxazole | 3 mmol, 0.99 g | BrCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H12BrNO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
solvent | Et2O | CCOCC | C4H10O
product | methyl [3-[[(4,5-diphenyl-2-oxazolyl)methyl](methoxycarbonyl) amino]phenoxy]acetate | 0.71 g, 48% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CN(C=1C=C(OCC(=O)OC)C=CC1)C(=O)OC | C27H24N2O6
